US08217064B2
To a stirred solution of ethyl 3-cyclopropyl-2-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)propanoate (1.0 g), in dry MeOH (100 mL) Pd(OH)2 (500 mg) was added and the mixture was reduced under an atmosphere of H2 for 6 h at room temperature. The mixture was filtered off through a pad of Celite™, washing with MeOH. The combined filtrates were concentrated under reduced pressure to give ethyl 2-(4-amino-3-(2,2,2-trifluoroethoxy)phenyl)-3-cyclopropylpropanoate (0.9 g) as a thick liquid.

reactant | ethyl 3-cyclopropyl-2-(4-nitro-3-(2,2,2-trifluoroethoxy)phenyl)propanoate | 1.0 g | C1(CC1)CC(C(=O)OCC)C1=CC(=C(C=C1)[N+](=O)[O-])OCC(F)(F)F | C16H18F3NO5
solvent | MeOH | 100 mL, 500 mg | CO | CH4O
product | ethyl 2-(4-amino-3-(2,2,2-trifluoroethoxy)phenyl)-3-cyclopropylpropanoate | 0.9 g | NC1=C(C=C(C=C1)C(C(=O)OCC)CC1CC1)OCC(F)(F)F | C16H20F3NO3
